US20010056188A1
1) 3-(Benzo[1,3]dioxol-5-ylamino)-2-(2,2-dimethyl-propionyl)-3-methylsulfanyl-propenenitrile
To a solution of 4,4-dimethyl-3-oxopentanenitrile (0.626 g, 5.0 mmol) in dry acetone (10 ml) first potassium carbonate (1.38 g, 10 mmol) and then 3,4-methylendioxyphenyl isothiocyanate (0.941 g, 5.3 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 72 h, and then filtered. To the filtrate methyl iodide (0.93 ml, 15 mmol) was added. The mixture was stirred at room temperature for 45 min. The precipitate was filtered off and the filtrate was concentrated. The residue was taken up into dichloromethane and water. The organic layer was washed with water (2×), dried (sodium sulfate) and concentrated. Crystallisation from ethyl acetate/heptane 1:1 gave 1.56 g (98%) of the title compound. Mp 139-141° C.; 1H NMR (200 MHz, CDCl3). δ=1.40 (s, 9H), 2.28 (s, 3H), 6.03 (s, 2H), 6.75 (dd, 1H), 6.8 (m, 2H), 13.5 (br s, 1H); EI SP/MS: 318 (M+).

reactant | 4,4-dimethyl-3-oxopentanenitrile | 5.0 mmol, 0.626 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | acetone | 10 mmol, 10 ml, 1.38 g | CC(=O)C | C3H6O
reactant | 3,4-methylendioxyphenyl isothiocyanate | 5.3 mmol, 0.941 g | C1OC=2C=C(C=CC2O1)N=C=S | C8H5NO2S
reactant | methyl iodide | 15 mmol, 0.93 ml | CI | CH3I
product | 3-(Benzo[1,3]dioxol-5-ylamino)-2-(2,2-dimethyl-propionyl)-3-methylsulfanyl-propenenitrile | 1.56 g, 98% | O1COC2=C1C=CC(=C2)NC(=C(C#N)C(C(C)(C)C)=O)SC | C16H18N2O3S
